US03933906
The starting material is prepared as follows: To the mixture of 3.6 g of 4-(4-acetamidophenylamino)-3-amino-5-sulfamoylbenzoic acid, 20 ml of water and the sufficient amount of N aqueous sodium hydroxide to reach a pH = 7.4, 1.3 g of benzyl chloride are added while stirring at 30°. The mixture is stirred for 16 hours at room temperature, during which time 4N aqueous sodium hydroxide is added dropwise to keep said pH value. It is filtered, the filtrate acidified with 2 ml of glacial acetic acid and the precipitate formed filtered off, to yield the 4-(4-acetamidophenylamino)-3-benzylamino-5-sulfamoylbenzoic acid which is used as such without further purification.

reactant | 4-(4-acetamidophenylamino)-3-amino-5-sulfamoylbenzoic acid | 3.6 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H16N4O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl chloride | 1.3 g, pH = 7.4 | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4-(4-acetamidophenylamino)-3-benzylamino-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C22H22N4O5S
